US07989463B2
Step (i): Synthesis of 2-chloro-4-phenoxy-6,7-dihydro-5H-cyclopentapyrimidine
A mixture of 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine (0.45 g, 2.4 mmol), phenol (0.28 g, 3 mmol), cesium carbonate (0.97 g, 3 mmol) and copper powder (0.01 g) in anhydrous dimethylformamide (5 mL) was stirred at about 20 to 35° C. for 6 to 20 hours. The reaction was quenched by addition of water. The organics were extracted with EtOAc and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude was purified by column chromatography (silica gel) to afford the title compound as a white solid (0.31 g, 54%).

reactant | 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine | 2.4 mmol, 0.45 g | ClC1=NC2=C(C(=N1)Cl)CCC2 | C7H6Cl2N2
reactant | phenol | 3 mmol, 0.28 g | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 3 mmol, 0.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | copper | 0.01 g | [Cu] | Cu
product | 2-chloro-4-phenoxy-6,7-dihydro-5H-cyclopentapyrimidine | 0.31 g, 54% | ClC1=NC2=C(C(=N1)OC1=CC=CC=C1)CCC2 | C13H11ClN2O
